US07601714B2
To a solution of 5-(trifluoromethyl)-2,4-di-chloropyrimidine (0.5 g, 2.3 mmol) in DMF (8 mL) were added a solution of 2-(trifluoromethoxy)benzylamine (0.44g, 2.3 mmol) in DMF (2 mL) followed by DIPEA (0.44 mL, 2.3 mmol) at −20° C. The reaction mixture was stirred at that temperature for 20 min. When the starting material was all consumed, the mixture was diluted with EtOAc and washed with water (×4). The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel preparative TLC using 100% CH2Cl2 as an eluent to afford 0.44 g (52%) of (4-chloro-5-trifluoromethyl-pyrimidin-2-yl)-(2-trifluoromethoxy-benzyl)-amine as a white foam.

reactant | 5-(trifluoromethyl)-2,4-di-chloropyrimidine | 2.3 mmol, 0.5 g | FC(C=1C(=NC(=NC1)Cl)Cl)(F)F | C5HCl2F3N2
reactant | 2-(trifluoromethoxy)benzylamine | 2.3 mmol, 0.44g | FC(OC1=C(CN)C=CC=C1)(F)F | C8H8F3NO
reactant | DIPEA | 2.3 mmol, 0.44 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-chloro-5-trifluoromethyl-pyrimidin-2-yl)-(2-trifluoromethoxy-benzyl)-amine | 0.44 g, 52% | ClC1=NC(=NC=C1C(F)(F)F)NCC1=C(C=CC=C1)OC(F)(F)F | C13H8ClF6N3O
